US03952031
3α-Hydroxy-2β-(3'-morpholinopropoxy)-5α-pregnane-11,20-dione
2β-(3'-Chloropropoxy)-20,20-ethylenedioxy-3α-hydroxy-5α-pregnan-11-one (500 mg.) was dissolved in morpholine (5 ml.) and the solution heated on a steambath for 8 hours. The solution was poured into water and the precipitate extracted into ether (70 ml.). The ethereal solution was washed with water, dried over anhydrous sodium sulphate and evaporated to a white foam (480 mg.) which was dissolved in 35% aqueous acetic acid and the solution heated on a steam-bath for 3 hours. The solution was cooled in ice and an ice-cooled solution of 10N-potassium hydroxide added to the stirred solution in the presence of ether (100 ml.) until the aqueous layer was basic. The aqueous layer was extracted with ether (50 ml.) and the combined ether extracts washed with water, dried over anhydrous sodium sulphate and evaporated to a white foam (390 mg.) which was purified by preparative TLC in acetone to give the title compound (250 mg.) as a white foam, [α](c D + 65.0° (C 1.02).

reactant | 2β-(3'-Chloropropoxy)-20,20-ethylenedioxy-3α-hydroxy-5α-pregnan-11-one | 500 mg | ClCCCO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C5(C)OCCO5)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C26H41ClO5
reactant | water | O | H2O
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
product | 3α-Hydroxy-2β-(3'-morpholinopropoxy)-5α-pregnane-11,20-dione | 250 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OCCCN1CCOCC1)C)=O)C | C28H45NO5
